US07816522B2
(21f) 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester
After adding 10.6 g of Me3O+BF4− to a solution of 28.2 g of a crude product of 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide in 100 ml of acetonitrile, the mixture was stirred at room temperature for 1 hour under a nitrogen atmosphere. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure to give the title compound (27.2 g, crude product) as a light yellow solid.

reactant | BF4− | F[B-](F)(F)F
reactant | 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide | COC1=CC(=CC=2COCOC21)C(C(=S)N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C20H20N4O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester | 27.2 g | CSC(C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(COCO2)C1)OC)=N | C21H22N4O4S
